US06300368B1
4′-[2-(p-Toluenesulfonyloxy)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide (1.7 g) solution in dioxane (20 ml) was added with 70% ethylamine aqueous solution (1.63 ml) and stirred for 6 hours at 90° C. The reaction mixture was concentrated under vacuum and dissolved into 2N HCl (20 ml). This solution was washed with ethyl acetate (20 ml) two times. Aqueous layer was neutralized with 2N sodium hydroxide (20 ml). Solid formed was extracted with ethyl acetate (50 ml), washed with water and then dehydrated with anhydrous magnesium sulfate. After filtration, filtrate was concentrated under vacuum and purified with silica-gel column chromatography to obtain 4′-[2-(ethylamino)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide (0.77 g) as white solid.

reactant | 4′-[2-(p-Toluenesulfonyloxy)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide | 1.7 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1=CC=C(NC(=O)C2CCOCC2)C=C1)C | C21H25NO6S
reactant | ethylamine | 1.63 ml | C(C)N | C2H7N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4′-[2-(ethylamino)ethoxy]-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide | 0.77 g | C(C)NCCOC1=CC=C(NC(=O)C2CCOCC2)C=C1 | C16H24N2O3
